US08022076B2
A stirred mixture of 2-amino-4-phenylthiophene-3-carboxylic acid ethyl ester (350.43 g, 1.54 mol), acetamidine hydrochloride (725.13 g, 7.676 mol) and ethanol (1500 ml) was heated under reflux for 18 hours then allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with a little cold ethanol, then crystallised from ethanol to give 2-Methyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one as a yellow solid which was used without further purification.

reactant | 2-amino-4-phenylthiophene-3-carboxylic acid ethyl ester | 1.54 mol, 350.43 g | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)N | C13H13NO2S
reactant | acetamidine hydrochloride | 7.676 mol, 725.13 g | Cl.C(C)(=N)N
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | 2-Methyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one | CC=1NC(C2=C(N1)SC=C2C2=CC=CC=C2)=O | C13H10N2OS
